US06333336B1
2-(4-Fluorophenyl)-2,5-dihydro-6-methyl-7-phenylpyrazolo[4,3-c]pyridin-3-one
Following a similar procedure to that described in Example 4, except using ethyl 4-chloro-2-methyl-3-phenyl-5-pyridinecarboxylate and 4-fluorophenylhydrazine hydrochloride instead of ethyl 4-chloro-3-propyl-5-pyridinecarboxylate and 4-chlorophenylhydrazine hydrochloride, the title compound was prepared, after further purification by flash chromatography (silica gel, 5% MeOH/CH2Cl2), in 19% yield as a yellow solid; mp 303-317° C. (CH2Cl2-MeOH-EtOAc); 1H NMR (360 MHz, DMSO-d6) δ2.25 (3H, s), 7.20 (2H, t, J 9.0 Hz), 7.42 (1H, m), 7.50-7.51 (4H, m), 8.09 (2H, dd, J 9.2, J′5.2 Hz), 8.55 (1H, d), 12.43 (1H, br s); MS (ES+) m/z 320 [MH]+. Anal. found: C, 69.91; H, 4.15; N, 13.25. C19H14FN3Oe.0.3H2O requires: C, 70.27; H, 4.53; N, 12.94%.

reactant | ethyl 4-chloro-2-methyl-3-phenyl-5-pyridinecarboxylate | ClC1=C(C(=NC=C1C(=O)OCC)C)C1=CC=CC=C1 | C15H14ClNO2
reactant | 4-fluorophenylhydrazine hydrochloride | Cl.FC1=CC=C(C=C1)NN
reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
product | 2-(4-Fluorophenyl)-2,5-dihydro-6-methyl-7-phenylpyrazolo[4,3-c]pyridin-3-one | 19% yield | FC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C2=CC=CC=C2)C)C1=O | C19H14FN3O
